### PR TITLE
[Merged by Bors] - chore: golf results on principal ordinals

### PR DESCRIPTION
**Pull request by vihdzp**
---

- [x] depends on: #37132

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Ordinal/Basic.lean [hunk 1]
```diff
@@ -57,6 +57,8 @@ for the empty set by convention.
 * `ω` is a notation for the first infinite ordinal in the scope `Ordinal`.
 -/
 
+set_option linter.style.longFile 1700
+
```
Comment (SnirBroshi) [inline Mathlib/SetTheory/Ordinal/Basic.lean]: This now exists on master at the bottom of the file, so this is a duplicate
```suggestion
```

File: Mathlib/SetTheory/Ordinal/Basic.lean [hunk 2]
```diff
@@ -933,6 +935,10 @@ theorem lt_one_iff_zero {a : Ordinal} : a < 1 ↔ a = 0 := by
 theorem le_one_iff {a : Ordinal} : a ≤ 1 ↔ a = 0 ∨ a = 1 := by
   simpa using @le_succ_bot_iff _ _ _ a _
 
+@[simp]
+theorem lt_two_iff {a : Ordinal} : a < 2 ↔ a ≤ 1 := by
```
Comment (SnirBroshi) [inline Mathlib/SetTheory/Ordinal/Basic.lean]: IIUC this is a general lemma for `{α : Type*} [LinearOrder α] [AddMonoidWithOne α] [SuccAddOrder α] [NoMaxOrder α]`. How about adding this to `Algebra/Order/SuccPred.lean` under `Order.lt_add_one_iff`?

File: Mathlib/SetTheory/Ordinal/Principal.lean [hunk 3]
```diff
@@ -356,26 +360,20 @@ theorem isPrincipal_mul_two : IsPrincipal (· * ·) 2 := by
...
 theorem isPrincipal_mul_of_le_two (ho : o ≤ 2) : IsPrincipal (· * ·) o := by
-  rcases lt_or_eq_of_le ho with (ho | rfl)
-  · rw [← one_add_one_eq_two, lt_add_one_iff] at ho
-    rcases lt_or_eq_of_le ho with (ho | rfl)
-    · rw [lt_one_iff_zero.1 ho]
-      exact isPrincipal_zero
-    · exact isPrincipal_mul_one
-  · exact isPrincipal_mul_two
+  rw [le_iff_lt_or_eq, lt_two_iff, le_one_iff] at ho
+  obtain ((rfl | rfl) | rfl) := ho
```
Comment (SnirBroshi) [inline Mathlib/SetTheory/Ordinal/Principal.lean]:
```suggestion
  rcases ho with (rfl | rfl) | rfl
```

File: Mathlib/SetTheory/Ordinal/Principal.lean [hunk 4]
```diff
@@ -356,26 +360,20 @@ theorem isPrincipal_mul_two : IsPrincipal (· * ·) 2 := by
...
 
 theorem isPrincipal_mul_of_le_two (ho : o ≤ 2) : IsPrincipal (· * ·) o := by
-  rcases lt_or_eq_of_le ho with (ho | rfl)
-  · rw [← one_add_one_eq_two, lt_add_one_iff] at ho
-    rcases lt_or_eq_of_le ho with (ho | rfl)
-    · rw [lt_one_iff_zero.1 ho]
-      exact isPrincipal_zero
-    · exact isPrincipal_mul_one
-  · exact isPrincipal_mul_two
+  rw [le_iff_lt_or_eq, lt_two_iff, le_one_iff] at ho
```
Comment (SnirBroshi) [inline Mathlib/SetTheory/Ordinal/Principal.lean]: Perhaps another lemma for `a ≤ 2 ↔ a = 0 ∨ a = 1 ∨ a = 2`?

File: Mathlib/SetTheory/Ordinal/Principal.lean [hunk 5]
```diff
@@ -356,26 +360,20 @@ theorem isPrincipal_mul_two : IsPrincipal (· * ·) 2 := by
...
 
 @[deprecated (since := "2026-03-17")]
 alias principal_mul_of_le_two := isPrincipal_mul_of_le_two
 
 theorem isPrincipal_add_of_isPrincipal_mul (ho : IsPrincipal (· * ·) o) (ho₂ : o ≠ 2) :
     IsPrincipal (· + ·) o := by
   rcases lt_or_gt_of_ne ho₂ with ho₁ | ho₂
-  · rw [← one_add_one_eq_two, lt_add_one_iff] at ho₁
+  · rw [lt_two_iff] at ho₁
     exact isPrincipal_add_of_le_one ho₁
```
Comment (SnirBroshi) [inline Mathlib/SetTheory/Ordinal/Principal.lean]:
```suggestion
  · exact isPrincipal_add_of_le_one <| lt_two_iff.mp ho₁
```

File: Mathlib/SetTheory/Ordinal/Principal.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Principal.lean]: Is there a difference? Ctrl+F suggests we use `obtain` about twice as often as we use `rcases`.

File: Mathlib/SetTheory/Ordinal/Basic.lean (hunk 2 above)
Comment (vihdzp) [reply Mathlib/SetTheory/Ordinal/Basic.lean]: I've moved this lemma to #37132.

File: Mathlib/SetTheory/Ordinal/Principal.lean (hunk 3 above)
Comment (SnirBroshi) [reply Mathlib/SetTheory/Ordinal/Principal.lean]: `obtain` is `have`+`rcases` so I think this is like using `refine` when `exact` works.
Regardless, there are extraneous parentheses.

**Review by SnirBroshi — APPROVED** [review]

**Review by j-loreaux — COMMENTED** [review]
Thanks!

bors merge
